US08022099B2
[(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine (1.00 g, 2.98 mmol) in CH2Cl2 (10 ml) was added Et3N (0.83 ml, 5.96 mmol), DMAP (73 mg, 0.59 mmol) and (Boc)2O (1.43 g, 6.55 mmol). After one hour at RT, the organic phase was washed with H2O, then dried over Na2SO4. Column chromatography (Heptane/EtOAc: 3/1) afforded 0.93 g (71%) of the title compound as a yellow oil. ES-MS m/e: 435.3 (M+H+).

reactant | [(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 2.98 mmol, 1.00 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)NC | C18H20Cl2N2
reactant | Et3N | 5.96 mmol, 0.83 ml | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 6.55 mmol, 1.43 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.59 mmol, 73 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 0.93 g, 71% | C(C)(C)(C)OC(N(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1)=O | C23H28Cl2N2O2
